US06159902
A mixture of ethyl 4-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-4-methyl-3-oxo-pentanoate (0.5 g), 1,4-diiodobutane(0.23 ml) and potassium carbonate(1.0 g) was stirred in dimethylsulphoxide at 20° C. for 12 hours. The mixture was diluted (ether), washed (brine), dried (MgSO4), evaporated and the residue purified by column chromatography (ethyl acetate/hexane 1:3) to give ethyl 4-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-(4'-iodobutyl)-4-methyl-3-oxo-pentanoate (0.3 g), NMR 1.24(3H, t), 1.3-1.4(2H, m), 1.43((3H, s), 1.48(3H, s), 1.7-2.0(7H, m), 3.12(2H, t), 3.8-3.9(1H, m), 4.1-4.2(2H, m), 5.28(2H, d), 7.2-7.4(5H, m).

reactant | ethyl 4-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-4-methyl-3-oxo-pentanoate | 0.5 g | CC1=C(C(N(CO1)C(C(CC(=O)OCC)=O)(C)C)=O)C1=CC=CC=C1 | C19H23NO5
reactant | 1,4-diiodobutane | 0.23 ml | ICCCCI | C4H8I2
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | ether | CCOCC | C4H10O
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
product | ethyl 4-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-(4'-iodobutyl)-4-methyl-3-oxo-pentanoate | 0.3 g | CC1=C(C(N(CO1)C(C(C(C(=O)OCC)CCCCI)=O)(C)C)=O)C1=CC=CC=C1 | C23H30INO5
